US07989461B2
2-Amino-3-iodo-4-methylbenzoic acid (10 g, 36 mmol) was treated with acetic anhydride (70 mL) and the mixture stirred at reflux for 4 h. The reaction was allowed to cool down to RT and placed in an ice bath for ˜2 h. The resulting precipitate was collected by filtration, washed with diethyl ether and dried to give 8-iodo-2,7-dimethyl-4H-benzo[d][1,3]oxazin-4-one (8.9 g, 82%) as a tan solid. MS (M+H)+ 302.

reactant | 2-Amino-3-iodo-4-methylbenzoic acid | 36 mmol, 10 g | NC1=C(C(=O)O)C=CC(=C1I)C | C8H8INO2
reactant | acetic anhydride | 70 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 8-iodo-2,7-dimethyl-4H-benzo[d][1,3]oxazin-4-one | 8.9 g, 82% | IC1=C(C=CC2=C1N=C(OC2=O)C)C | C10H8INO2
